US05866579
2-(5,6,7,8-Tetrahydroquinolin-3-yl)amino-2-imidazoline.
A mixture of the above solid (0.221 g, 1.49 mmole), 2-imidazoline-2-sulfonic acid (0.805 g, 5.4 mmole) and isobutyl alcohol (4 mL) was refluxed for 18 hours. The solvent was removed in vacuo and the residue was flash chromatographed over silica gel (eluent: 10:2:1 v/v/v ethyl acetate-methanol-triethylamine). The product was obtained in 100% yield (0.337 g) as a pale yellow solid. The above solid was treated in ethanol with 1.0 equivalent of fumaric acid to give a fumarate as a white solid (59% yield): mp 201°-203° C. Anal. Calcd. for C12H16N4.1.5C4H4O4.0.5H2O: C, 54.13; H, 5.76; N, 14.04. Found: C, 54.04; H, 5.96; N, 13.69.

reactant | 2-imidazoline-2-sulfonic acid | 5.4 mmole, 0.805 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
reactant | isobutyl alcohol | 4 mL | C(C(C)C)O | C4H10O
reactant | fumaric acid | 1.0 equivalent | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | C(C)O | C2H6O
product | 2-(5,6,7,8-Tetrahydroquinolin-3-yl)amino-2-imidazoline | 59% yield | N1=CC(=CC=2CCCCC12)NC=1NCCN1 | C12H16N4
